US08957070B2
Ethyl 7-{[(5-chloro-2-thienyl)sulfonyl]amino}-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-1H-indole-2-carboxylate (0.70 g) and pyridine (10 mL) was added 5-chlorothiophene-2-sulfonyl chloride (0.89 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography, and eluted with ethyl acetate. The eluate was treated with activated carbon and concentrated to give the title compound (1.09 g, yield 83%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point 180-181° C.

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 0.70 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | 5-chlorothiophene-2-sulfonyl chloride | 0.89 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 7-{[(5-chloro-2-thienyl)sulfonyl]amino}-1H-indole-2-carboxylate | 1.09 g, yield 83% | ClC1=CC=C(S1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C15H13ClN2O4S2
